US06503907B2
To 4.2 g (20 mmol) 5-Bromo-3-methyl-1H-indole [prepared according to Noland, Wayland E.; Reich, Charles. Synthesis and reactions of 5-bromoskatole and 5-bromo-1,3-dimethylindole. J. Org. Chem. (1967), 32(3), 828-32.] in 22 ml (0.2 mol) 1-bromo-4-fluorobenzene were added 5.6 g (0.1 mol) powdered potassium hydroxide and 1.14 g (60 mmol) CuI as powder. The suspension was heated to reflux for 0.5 h. At RT, ether and water were added, the phases were separated and the aqueous phase was extracted with ether. The combined organic phases were washed with water and dried over Na2SO4. Column chromatography on silica gel with hexane yielded 750 mg 5-Bromo-1-(4-fluoro-phenyl)-3-methyl-1H-indole as colorless solid, mp 97-98° C., MS: 303(M, 1Br).

reactant | 5-Bromo-3-methyl-1H-indole | 20 mmol, 4.2 g | BrC=1C=C2C(=CNC2=CC1)C | C9H8BrN
reactant | 1-bromo-4-fluorobenzene | 0.2 mol, 22 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | potassium hydroxide | [OH-].[K+]
reactant | ether | CCOCC | C4H10O
catalyst | CuI | 60 mmol, 1.14 g | [Cu]I
solvent | water | O | H2O
product | 5-Bromo-1-(4-fluoro-phenyl)-3-methyl-1H-indole | 750 mg | BrC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)C | C15H11BrFN
